US07504417B2
2-Amino-N-(5-chloro-2-pyridyl)-3-hydroxybenzamide (3.06 g) and 1.80 g of N-chlorosuccinimide were dissolved in 60 ml of N,N-dimethylformamide, the solution was stirred at 50° C. for 8 hours and at room temperature for 4 hours and the insoluble matter was filtered off. The solvent was evaporated in vacuo, to the resulting residue was added a 1N aqueous solution of sodium hydroxide and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated in vacuo and the resulting residue was purified by means of a silica gel column chromatography. Ethanol was added to the crudely purified product and the resulting precipitate was collected by filtration and dried in vacuo to give 767 mg of 2-amino-5-chloro-N-(5-chloro-2-pyridyl)-3-hydroxybenzamide. The mother liquor was concentrated, then ethyl acetate-isopropyl ether was added thereto and the resulting precipitate was collected by filtration and dried in vacuo to give more 942 mg of the above-mentioned compound.

reactant | 2-Amino-N-(5-chloro-2-pyridyl)-3-hydroxybenzamide | 3.06 g | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC=C1O | C12H10ClN3O2
reactant | N-chlorosuccinimide | 1.80 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-amino-5-chloro-N-(5-chloro-2-pyridyl)-3-hydroxybenzamide | 767 mg | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1O)Cl | C12H9Cl2N3O2
